US06063932
S-([1,1'-biphenyl]-4-yl) O-(2-methylpropyl) carbonothioate
A mixture of 9.3 g of [1,1'-biphenyl]-4-thiol (alternatively named 4'-mercapto-1,1'-biphenyl), 40 mL of dichloromethane, 0.21 g of tetrabutylammonium hydrogen sulfate, and 7.2 g of isobutyl chloroformate was cooled to 5° C. and 10.2 g of 20% aqueous NaOH was added over 10 min. The mixture was allowed to stir for 30 min at 15° C. the phases were separated, and the organic phase was concentrated to dryness. The residue was slurried in 100 mL of cold isopropanol, filtered, and suction-dried to afford 12.9 g (92% yield) of product, m.p. 78-79° C. 1H NMR (CDCl3): δ0.90 (d, 6H), 2.00 (s, 1H), 4.05 (d, 7.35-7.50 (m, 3H), 7.60 (d, 2H), 7.60 (s, 4H).

reactant | [1,1'-biphenyl]-4-thiol | 9.3 g | C1(=CC=C(C=C1)S)C1=CC=CC=C1 | C12H10S
reactant | 4'-mercapto-1,1'-biphenyl | SC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10S
reactant | isobutyl chloroformate | 7.2 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaOH | 10.2 g | [OH-].[Na+]
catalyst | tetrabutylammonium hydrogen sulfate | 0.21 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | S-([1,1'-biphenyl]-4-yl) O-(2-methylpropyl) carbonothioate | 12.9 g, 92% yield | C(SC1=CC=C(C=C1)C1=CC=CC=C1)(OCC(C)C)=O | C17H18O2S
